US08629160B2
2-Bromo-1-(4-hydroxyphenyl)ethanone (24.5 mg, 0.11 mmol) was added to a solution of ethyl 3-(1-(6-methoxypyridin-3-yl)-2-oxo-2-((R)-quinuclidin-3-yloxy)ethylamino)benzoate (C65) (50 mg, 0.11 mmol) in EtOAc (2 ml). The reaction was stirred at room temperature overnight. The solvent was evaporated, and the residue was triturated with Et2O, filtered and dried. The product was purified by flash-chromatography (DCM/MeOH=97/3 to 9/1) to obtain (3R)-3-(2-(3-(ethoxycarbonyl)phenylamino)-2-(6-methoxypyridin-3-yl)acetoxy)-1-(2-(4-hydroxyphenyl)-2-oxoethyl)-1-azoniabicyclo[2.2.2]octane bromide (37.3 mg, 50.1% yield).

reactant | 2-Bromo-1-(4-hydroxyphenyl)ethanone | 0.11 mmol, 24.5 mg | BrCC(=O)C1=CC=C(C=C1)O | C8H7BrO2
reactant | ethyl 3-(1-(6-methoxypyridin-3-yl)-2-oxo-2-((R)-quinuclidin-3-yloxy)ethylamino)benzoate | 0.11 mmol, 50 mg | COC1=CC=C(C=N1)C(C(O[C@H]1CN2CCC1CC2)=O)NC=2C=C(C(=O)OCC)C=CC2 | C24H29N3O5
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | (3R)-3-(2-(3-(ethoxycarbonyl)phenylamino)-2-(6-methoxypyridin-3-yl)acetoxy)-1-(2-(4-hydroxyphenyl)-2-oxoethyl)-1-azoniabicyclo[2.2.2]octane bromide | 37.3 mg, 50.1% yield | [Br-].C(C)OC(=O)C=1C=C(C=CC1)NC(C(=O)O[C@H]1C[N+]2(CCC1CC2)CC(=O)C2=CC=C(C=C2)O)C=2C=NC(=CC2)OC | InChI=1S/C32H35N3O7.BrH/c1-3-41-31(38)23-5-4-6-25(17-23)34-30(24-9-12-29(40-2)33-18-24)32(39)42-28-20-35(15-13-22(28)14-16-35)19-27(37)21-7-10-26(36)11-8-21;/h4-12,17-18,22,28,30,34H,3,13-16,19-20H2,1-2H3;1H/t22?,28-,30?,35?;/m0./s1
